US06323235B1
Methyl (2-(3-acetoxy-1-propenyl)-3-(2-tetrahydropyranyloxyethyl)benzofuran-7-yloxy)acetate
Methyl (2-(1-propenyl)-3-(2-tetrahydropyranyloxyethyl)benzofuran-7-yloxy)acetate (523 mg) was dissolved in benzene (5 ml) and NBS (299 mg) and azoisobutylonitrile (23 mg) were added, followed by stirring the mixture for 4 hours. The reaction solution was poured into water (50 ml) and the resultant was extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying the resultant over sodium sulfate. After removing sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was dissolved in DMF (4 ml). Potassium acetate (205 mg) was added to this solution and the solution was stirred at room temperature for 50 minutes. The reaction solution was added to water (50 ml) and the resultant was extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine and dried over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=2/1) using silica gel to obtain the desired compound (217 mg, yield: 36%).

reactant | Methyl (2-(1-propenyl)-3-(2-tetrahydropyranyloxyethyl)benzofuran-7-yloxy)acetate | 523 mg | C(=CC)C=1OC2=C(C1CCOC1OCCCC1)C=CC=C2OCC(=O)OC | C21H26O6
reactant | NBS | 299 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 50 ml | O | H2O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | Methyl (2-(3-acetoxy-1-propenyl)-3-(2-tetrahydropyranyloxyethyl)benzofuran-7-yloxy)acetate | 217 mg, yield: 36% | C(C)(=O)OCC=CC=1OC2=C(C1CCOC1OCCCC1)C=CC=C2OCC(=O)OC | C23H28O8
